US05102877
Tetrakis(triphenylphosphine)palladium(0) (2 g) was added to a mixture of 2-[2-(N-allyloxycarbonyl-N-benzylamino)-1-hydroxyethyl]-2-methyl-1,3-dioxolane (10.5 g), triphenylphosphine (0.86 g), and morpholine (3 ml) in tetrahydrofuran (100 ml) at ambient temperature in a stream of nitrogen. The mixture was stirred at the same condition for 2 hours and concentrated under reduced pressure to give a residue. The residue was subjected to a column chromatography on silica gel (150 g) and eluted with a mixture of methanol and chloroform (2:98, and then 5:95, V/V) to give 2-(2-benzylamino-1-hydroxyethyl)-2-methyl-1,3-dioxolane (5.60 g) as a syrup.

reactant | 2-[2-(N-allyloxycarbonyl-N-benzylamino)-1-hydroxyethyl]-2-methyl-1,3-dioxolane | 10.5 g | C(C=C)OC(=O)N(CC1=CC=CC=C1)CC(O)C1(OCCO1)C | C17H23NO5
reactant | triphenylphosphine | 0.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | morpholine | 3 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-benzylamino-1-hydroxyethyl)-2-methyl-1,3-dioxolane | 5.60 g | C(C1=CC=CC=C1)NCC(O)C1(OCCO1)C | C13H19NO3
